US03933841
An amount of 8.46 g of thiophosgene in a sulphonating flask is stirred into 500 ml of ice water. An addition is then made dropwise, in the course of 10 minutes, of a solution of 18 g of 6-amino-2-phenoxybenzothiazole in 100 ml of dioxane as well as 10 ml of water. The suspension is further stirred overnight at room temperature. The formed precipitate is separated and washed with water; the residue is dissolved in 100 ml of methylene chloride, and the solution dried over sodium sulphate. After chromatography with methylene chloride through aluminium oxide (neutral, activity stage III), an amount of 12.5 g. of 6-isothiocyano-2-phenoxybenzothiazole, M.P. 118° to 119°C, is obtained.

reactant | thiophosgene | 8.46 g | C(=S)(Cl)Cl | CCl2S
reactant | 6-amino-2-phenoxybenzothiazole | 18 g | NC1=CC2=C(N=C(S2)OC2=CC=CC=C2)C=C1 | C13H10N2OS
reactant | water | 10 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-isothiocyano-2-phenoxybenzothiazole | N(=C=S)C1=CC2=C(N=C(S2)OC2=CC=CC=C2)C=C1 | C14H8N2OS2
